US04564619
To 100 ml of dimethylformamide, there were added 7.45 g of N-cyclohexyl-N-(2-hydroxyethyl)-4-(6-carbostyriloxy)butyramide and 0.5 ml of triethylamine, then the whole mixture was heated at 80° to 90° C. on an oil bath. Next, 1.8 g of diketene were added dropwise to the reaction mixture, then the mixture was stirred for 1 hour at the same temperature. The reaction mixture was concentrated then was purified by a silica gel column chromatography (eluant: chloroform/methanol=50/1), and the solvent was removed by distillation under reduced pressure to yield 6.33 g of N-(2-acetoacetoxyethyl)N-cyclohexyl-4-(6-carbostyriloxy)butyramide in the form of a brownish oily substance.

reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N-cyclohexyl-N-(2-hydroxyethyl)-4-(6-carbostyriloxy)butyramide | 7.45 g | C1(CCCCC1)N(C(CCCOC=1C=C2C=CC(NC2=CC1)=O)=O)CCO | C21H28N2O4
reactant | diketene | 1.8 g | C=C1CC(=O)O1 | C4H4O2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N-(2-acetoacetoxyethyl)N-cyclohexyl-4-(6-carbostyriloxy)butyramide | 6.33 g | C(CC(=O)C)(=O)OCCN(C(CCCOC=1C=C2C=CC(NC2=CC1)=O)=O)C1CCCCC1 | C25H32N2O6
